US04337267
267 ml of 1.6 N sodium hydroxide solution are added dropwise with stirring at 100° C. within 90 minutes to a mixture of 69.3 g of 3-hydroxybenzotrifluoride and 119 g of 1,4-dibromobutane. The mixture is stirred at this temperature for a further 5 hours and is then allowed to cool. 200 ml of methylene chloride are added, the organic phase is separated off, washed with dilute sodium hydroxide solution, dried over sodium sulfate and concentrated. The residue is distilled in vacuo. 102.6 g of 4-(3-trifluoromethylphenoxy)butyl bromide of b.p. 143° to 144° C. (13 mm Hg=1730 Pa) are obtained.

reactant | sodium hydroxide | 1.6 N, 267 ml | [OH-].[Na+]
reactant | 3-hydroxybenzotrifluoride | 69.3 g | OC=1C=C(C=CC1)C(F)(F)F | C7H5F3O
reactant | 1,4-dibromobutane | 119 g | BrCCCCBr | C4H8Br2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 4-(3-trifluoromethylphenoxy)butyl bromide | 102.6 g | FC(C=1C=C(OCCCCBr)C=CC1)(F)F | C11H12BrF3O
